US06608078B2
A mixture of 1-benzyl-4-piperidone (2.2 g, 11.67 mmole) and (trifluoromethyl)-trimethyl silane (2.37 g, 16.7 mmole) in dry THF (10 ml) at 0° C. was treated with tetrabutylammonium fluoride (0.02 g) in THF. The mixture was stirred at 0° C. for 15 min and allowed to stir at 25-30° C. for 2 hr. THF (10 ml) and 3N HCl were added and stirred for 2 hr. The reaction mixture was extracted with ethyl acetate (3×25 ml), washed with water (2×10 ml) and brine (20 ml), dried (Na2SO4). Residue obtained after evaporation of solvent was purified by column chromatography over silica gel. Elute from a mixture of 5% methanol in chloroform gave 1-benzyl-4-hydroxy-4-trifluoromethylpiperidine as an oil. Yield 2.2 g, (73%), C13H24NOF3, m/z 260 (M+1), PMR (CDCl3): 1.7 (2H, d, CH2, j=10 Hz), 1.85 (1H, bs, OH, D2O exchangeable), 1.9 (2H, t, CH2, j=10 Hz), 2.3 (2H, t, CH2, j=10 Hz), 2.8 (2H, d, CH2, j=10 Hz), 3.55 (2H, s, CH2Ar), 7.2-7.4 (5H, m, ArH).

reactant | 1-benzyl-4-piperidone | 11.67 mmole, 2.2 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | (trifluoromethyl)-trimethyl silane | 16.7 mmole, 2.37 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 0.02 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 3N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-benzyl-4-hydroxy-4-trifluoromethylpiperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C(F)(F)F)O | C13H16F3NO
